US09169254B2
A 4 N solution of hydrochloric acid in 1,4-dioxane (213 μL) was added to a solution of 4-fluoro-4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester (24.9 mg, 0.107 μmol) in MeOH (213 μL) at room temperature, and the mixture was stirred at room temperature for two hours. The reaction solution was concentrated under reduced pressure to give (4-fluoro-piperidin-4-yl)-methanol hydrochloride as a brown form (19.6 mg).

reactant | hydrochloric acid | Cl | ClH
reactant | 4-fluoro-4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.107 μmol, 24.9 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(CO)F | C11H20FNO3
solvent | 1,4-dioxane | 213 μL | O1CCOCC1 | C4H8O2
solvent | MeOH | 213 μL | CO | CH4O
product | (4-fluoro-piperidin-4-yl)-methanol hydrochloride | Cl.FC1(CCNCC1)CO | InChI=1S/C6H12FNO.ClH/c7-6(5-9)1-3-8-4-2-6;/h8-9H,1-5H2;1H
